*
*DIODES_INC_SPICE_MODEL
*ORIGIN=DZSL_DPG_GM
*SIMULATOR=PSPICE
*DATE=23JUL2010
*VERSION=1
*PIN_ORDER         P1=C1, P2=B1, P3=C2, P4=E2, P5=B2, P6=E1
*
.SUBCKT ZXTD4591E6 P1 P2 P3 P4 P5 P6
Q1 P1 P2 P6 Nmod
Q2 P3 P5 P4 Pmod
*
.MODEL Nmod NPN IS=3.05E-13 NF=1.0034 BF=200 IKF=0.8 VAF=165
+ ISE=8.0191E-14 NE=1.4126 NR=1.001 BR=50 IKR=0.6 VAR=69 
+ ISC=1.6E-12 NC=1.38 RB=0.065 RE=0.109 RC=0.075 
+ CJC=17.2E-12 MJC=0.3429 VJC=0.4298 CJE=96E-12 
+ TF=0.71E-9 TR=2.5E-9
.ENDS ZXTD4591E6
.MODEL Pmod PNP IS =3.2E-14 BF =170 VAF=45 NF =0.977 IKF=1.25 ISE=7E-15
+ NE =1.35 BR =50 VAR=50 NR =.986 IKR=0.15 ISC=0.9E-14 NC =1.08 RB =0.16
+ RE =0.195 RC =0.185 CJE=104E-12 TF =0.7E-9 CJC=30.5E-12 TR =3E-9 VJC=0.395
+ MJC=0.415
*
*$