*
*****************************************************
*               Model of MCH6541                    *
*                   package: MCPH6                  *
*                                                   * 
*             TEMP:25deg C   hFE:CENTER             *
*                                                   *
*****************************************************
*                                                   *
*                 Bip-Tr Model                      *
*                                                   *
*             EXTERNAL PINS DESCRIPTION:            *
*                                                   *
*                 PIN 1 -> EMITTER(PNP)             *
*                 PIN 2 -> BASE(PNP)                *
*                 PIN 3 -> COLLECTOR(NPN)           *
*                 PIN 4 -> EMITTER(NPN)             *
*                 PIN 5 -> BASE(NPN)                *
*                 PIN 6 -> COLLECTOR(PNP)           *
*                                                   *
*                DATE:  Mar. 11, 2015               *
*                                                   *
*****************************************************
* MODELLING FOR MCH6541
 
*.SUBCKT MCH6541 1 2 3 4 5 6
.SUBCKT MCH6541 3 5 6 1 2 4

LL2    2  21       0.45n
Q1    61  21  11   MCH6541P5 TEMP=25
LL6   61   6       0.2n 
LL1   11   1       0.45n
*
LL5    5  51       0.45n
Q2    31  51  41   MCH6541N5 TEMP=25
LL3   31   3       0.2n 
LL4   41   4       0.45n

.MODEL MCH6541P5 PNP(IS=60f BF=340 NF=1.00 VAF=2 IKF=0.095 ISE=10.0f
+ NE=1.58 BR=75 NR=1.00 VAR=30 IKR=0.18 ISC=60f NC=1.32
+ RB=3.2 IRB=0.05 RBM=0.235 RE=0.088 RC=0.07 XTB=1.0 EG=1.11 XTI=3
+ CJE=29.55p VJE=0.7 MJE=0.363 CJC=12.47p VJC=0.5 MJC=0.297 XCJC=0.57
+ TF=275p XTF=30 VTF=40 ITF=2 TR=2.8n FC=0.5 TNOM=25 TRE1=0.01)


.MODEL MCH6541N5 NPN(IS=90f BF=530 NF=1.00 VAF=3.5 IKF=0.17 ISE=10.22f
+ NE=1.586 BR=130 NR=1.00 VAR=30 IKR=0.2 ISC=300f NC=1.45
+ RB=4.0 IRB=0.05 RBM=0.158 RE=0.082 RC=0.165 XTB=1.3 EG=1.11 XTI=3
+ CJE=29.68p VJE=0.7 MJE=0.305 CJC=9.50p VJC=0.6 MJC=0.35 XCJC=0.57
+ TF=255p XTF=17 VTF=35 ITF=2 TR=2.6n FC=0.5 TNOM=25 TRE1=0.007)


.ENDS MCH6541
* END OF MODELLING